data/mechanisms/records/IMS8-EQ8.1g.json
{"mechanism_id": "IMS8-EQ8.1g", "species": [{"species_id": "distonic_pentyl_ion", "mapped_smiles": "[CH2:1][CH2:2][CH2:3][CH+:4][CH3:5]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "propene_radical_cation", "mapped_smiles": "[CH2:3][CH+:4][CH3:5]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "ethylene", "mapped_smiles": "[CH2:1]=[CH2:2]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["distonic_pentyl_ion"]}, {"state_id": "state_products", "species_ids": ["propene_radical_cation", "ethylene"]}], "steps": [{"step_id": "step_alpha_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage", "support_type": "textbook_proposed", "locator": {"page": 137, "equation": "8.1", "section": "8.1 Unimolecular ion decompositions"}, "confidence": 0.85, "curator_note": "Eq 8.1, bottom pathway: the distonic radical cation .CH2-CH2-CH2-CH(+)-CH3 (bottom structure, dHf 9.6) fragments by the arrow labeled 'alpha' (rate 1.1) to neutral ethylene C2H4 (dHf 0.5) plus the C3H6+. propene radical cation ((100%) base peak, dHf/IE 9.9(9.7)). This is radical-site (alpha) cleavage / beta-scission of the terminal carbon radical: the C-C bond beta to the radical breaks, expelling ethylene and leaving the odd electron adjacent to the pre-existing charge (propene radical cation). Book draws 0 curved arcs (energetics scheme). All 3 fishhooks reconstructed for balance: (1) the odd electron on C1 forms the new C1=C2 pi bond (ethylene), (2) one electron of the breaking C2-C3 sigma bond also forms that pi bond, (3) the other electron of C2-C3 stays on C3 as the new radical. The precursor distonic ion matches the book drawing directly. The product propene radical cation is encoded in its opened distonic localized form .CH2-CH(+)-CH3 (convention C); McLafferty draws the same species as the closed alkene CH3-CH=CH2 with a delocalized (+.) on the terminal carbon."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 70.0777, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_C3H6", "species_id": "propene_radical_cation", "step_id": "step_alpha_cleavage", "observed_mz": 42.0464, "relative_intensity": 1.0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
